US08957102B2
(Step 1) 1-(4-(2-fluoro-4-nitrophenoxy)pyrrolo[1,2-b]pyridazin-5-yl)ethanone
AlCl3 (1.46 g, 10.98 mmol) was added to a solution of 4-(2-fluoro-4-nitrophenoxy)pyrrolo[1,2-b]pyridazine (600 mg, 2.19 mmol) in dichloroethane (60 mL). After stirring at room temperature for 1 hour and adding acetyl chloride (0.17 mL, 2.42 mmol), the mixture was further stirred for 3 hours. The resulting reaction mixture was neutralized with saturated sodium bicarbonate aqueous solution. The resulting mixture was filtered through celite. After phase separation of the filtrate, the organic layer was dried with magnesium sulfate and then filtered. The filtrate was concentrated and then purified by silica gel chromatography (1-6% ethyl acetate in dichloromethane) to give the target compound as a white solid (640 mg, 2.03 mmol, 93% yield).

reactant | AlCl3 | 10.98 mmol, 1.46 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-(2-fluoro-4-nitrophenoxy)pyrrolo[1,2-b]pyridazine | 2.19 mmol, 600 mg | FC1=C(OC=2C=3N(N=CC2)C=CC3)C=CC(=C1)[N+](=O)[O-] | C13H8FN3O3
reactant | acetyl chloride | 2.42 mmol, 0.17 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 60 mL | ClC(C)Cl | C2H4Cl2
product | 1-(4-(2-fluoro-4-nitrophenoxy)pyrrolo[1,2-b]pyridazin-5-yl)ethanone | 2.03 mmol, 640 mg, 93% yield | FC1=C(OC=2C=3N(N=CC2)C=CC3C(C)=O)C=CC(=C1)[N+](=O)[O-] | C15H10FN3O4
